US06207669B1
(4-Benzyloxy-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidin-4yl)-amine
The title compound was prepared according to Procedure A from 4-benzyloxyaniline and 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)pyrido[3,4-d]pyrimidine; δH [2H6]DMSO 11.33 (1H,s), 9.49 (1H,s), 9.39 (1H,s), 8.93 (1H,s), 7.80 (2H,d), 7.53 (2H,dd), 7.45 (3H,m), 7.20 (2H,d), 5.25 (2H,s), 2.75 (3H,s); m/z (M+1+) 411.

reactant | 4-benzyloxyaniline | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=NN2)C | C10H6ClN5O
product | (4-Benzyloxy-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidin-4yl)-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=NN2)C | C23H18N6O2
